Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Pre-syncope
 
Major Surgical or Invasive Procedure:
pacemaker device interrogation
 
History of Present Illness:
___ with AF (on digoxin, carvedilol, coumadin), ventricular 
pacemaker (___), and HTN presenting with two days of 
presyncope. Patient states he was in his usual, active state of 
health (exercising ___ weekly) until two days ago when his PCP 
at the ___ changed his carvedilol from 25mg QHS to 12.5 mg BID. 
He awoke ___ morning, complete his usual shower and 
breakfast routine feeling well, took his carvedilol, digoxin, 
and warfarin and then about 30 minutes later felt dizzy, 
lightheaded, and needed to return to bed. He laid in bed for the 
morning and the feeling passed by mid afternoon. He awoke this 
morning, completed the same routine feeling well and then took 
his carvedilol at 9.00 and went to his grandaughter's 
graduation. By 9.30 he felt lightheaded and needed to lie down 
in the stands. Pt denies any chest pain, palpitations, SOB, 
headache, numbness, weakness, LOC, or fall. He denies N/V, warm 
feeling, or loss of bowel or bladder. He has a history of 
similar pre-syncopal episodes (1-2/year for ___ years) but has 
not had any episodes in the past ___ years until today.  His 
lightheadedness did not improve after lying down so he was taken 
by ambulance to the ___ ED. In the field EMS noted an ECG 
concerning for Vtach and gave patient 150mg amiodarone load en 
route.           
.  
In the ED, initial VS afebrile, HR 60-80, saturating well on RA. 
Symptoms had also improved. EP investigated his pacemaker and 
found no abnormal pacemaker function and no recent ventricular 
high rate episodes to explain patient's presyncope. Patient's 
exam was notable for an AOx3 well appearing man, an irregularly 
irregular HR, with no m/r/g and good peripheral pulses. Labs 
notable for electrolytes and CBC wnl, glucose 138, Troponin 
<0.01, INR in goal range at 2.1. EKG notable for paced atrial 
fibrillation with HR 60-80. CXR showing pacer leads in place and 
no acute cardiopulmonary process. The pt was admitted to 
medicine for pre-syncope work-up.
. 
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.
 
Past Medical History:
MEDICAL & SURGICAL HISTORY:
-Atrial fibrillation on coumadin and digoxin
-Pacer (placed since ___, battery replaced ___
-HTN on carvedilol
-basal and squamous cell skin cancers (received biannual skin 
checks)
-s/p appendectomy and cholecystectomy
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
Admission PHYSICAL EXAM:  
VS: 97.1 120/70 74 18 98% RA
GENERAL: Well-appearing man in NAD, comfortable, appropriate.
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no thyromegaly, no JVD, no carotid bruits.
HEART: irregularly irregular, no MRG, nl S1-S2.
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored.
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.
EXTREMITIES: WWP, no c/c/e, 2+ carotid, radial, DP pulses.
SKIN: Multiple subhorrheic keratosis, AKs, and nevi.
LYMPH: No cervical LAD.
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, steady 
gait.
.

Discharge PHYSICAL EXAM:  
VS: 96.5 123/74 65 18 97% RA
GENERAL: Well-appearing man in NAD, comfortable, appropriate.
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no thyromegaly, no JVD, no carotid bruits.
HEART: irregularly irregular, no MRG, nl S1-S2.
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored.
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.
EXTREMITIES: WWP, no c/c/e, 2+ carotid, radial, DP pulses.
SKIN: Multiple subhorrheic keratosis, AKs, and nevi.
LYMPH: No cervical LAD.
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, steady 
gait.
 
Pertinent Results:
Admission Labs:
___ 09:10PM   GLUCOSE-107* UREA N-18 CREAT-1.0 SODIUM-143 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-31 ANION GAP-14
___ 09:10PM   ALBUMIN-4.1 CALCIUM-8.3* PHOSPHATE-3.8 
MAGNESIUM-2.1
___ 04:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 10:25AM   cTropnT-<0.01
___ 10:25AM   WBC-9.7 RBC-4.57* HGB-14.6 HCT-42.5 MCV-93 
MCH-32.0 MCHC-34.5 RDW-14.1
___ 10:25AM   ___ PTT-27.1 ___
___ 06:45AM BLOOD Digoxin-0.8*

Discharge Labs:
___ 06:45AM BLOOD WBC-8.6 RBC-4.31* Hgb-13.4* Hct-39.6* 
MCV-92 MCH-31.0 MCHC-33.7 RDW-14.0 Plt ___
___ 10:10AM BLOOD ___ PTT-27.7 ___
___ 06:45AM BLOOD Glucose-104* UreaN-18 Creat-1.1 Na-141 
K-4.1 Cl-102 HCO3-29 AnGap-14
___ 06:45AM BLOOD Calcium-8.8 Phos-4.3 Mg-2.1

ECG/Telemetry: AF, V paced with ___ beats of monomorphic V 
tach. Non-sustained 

Pacer Interrogation: No abnormal function, no evidence of 
abnormal rhythm to explain patient's syncope

Echo ___: The left atrium is mildly dilated. No atrial 
septal defect is seen by 2D or color Doppler. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity size is normal. Overall left ventricular systolic 
function is mildly depressed (LVEF= 45 %) with global 
hypokinesis. No masses or thrombi are seen in the left 
ventricle. There is no ventricular septal defect. Right 
ventricular chamber size is normal with borderline normal free 
wall function. The aortic root is mildly dilated at the sinus 
level. The ascending aorta is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion 

CXR: No evidence of acute cardiopulmonary process. Pacer leads 
in place.
 
Brief Hospital Course:
___ with AF (on dig and coumadin), V paced, HTN (on carvedilol) 
presenting with two days of morning pre-syncope correlated with 
a recent change in his carvedilol dosing (to 12.5mg BID from 
25mg daily). Patient's abrupt onset of presyncope with change in 
carvedilol dose after ___ years without a syncopal episode are 
highly suspicious for excessive carvedilol effect. Since 
carvedilol has alpa and beta blocking properties this effect 
could be in the form of alpha blockade leading to vasoplegia, 
hypotension and low CPP or beta effect and increased AV nodal 
blockade.  Since patient is paced and his pacer interrogation 
suggested no abnormally fast or slow rhythms to explain the 
syncope, vasoplegia is the most likely explanation. Patient's EF 
is unknown at this time and may also be low (on coreg and dig), 
further decreasing CO and therefore BP. Other less likely causes 
to consider include excess digoxin effect, increased vagal tone 
(patient denies syncope after BM or micturition), stroke or TIA 
(patient denies focal neuro sx, weakness, or confusion), carotid 
stenosis (2+ pulses w/o bruits on exam), dehydration (pt appear 
euvolemic on exam and was not exerting himself), myocardial 
infarction (EKG and troponins negative), structural heart 
disease (no murmur on exam).
.
# Pre-Syncope: most likely vasoplegia ___ to carvedilol. Rhythm 
on telemetry overnight showed HR 60-120 with short runs ___ 
beats) of NSVT that spontaneously terminated and patient 
remained AVSS and asymptomatic throughout. EP was consulted and 
reviewed the telemetry and confirmed that the pacer was working 
effectively and these runs were not the cause of the patient's 
symptoms. We ordered a digoxin level, which was within normal 
limits, ruling out excess dig effect or dig toxicity. In the 
morning, patient felt well, orthostatic BP measurements were 
obtained and showed no evidence of position dependent 
hypotension. He was restarted on his carvedilol at 6.25 mg at 
11:00 am and tolerated it well. He continued on his home 12.5 mg 
dose qHS. We also obtained an echocardiogram, which showed a 
stable EF of 45% (consistent with priors after discussion with 
pt's cardiologist in ___, ___) and no structural heart 
disease to cause patient's syncope. We discharged the patient on 
6.25mg carvedilol QAM after breakfast and 12.5mg QPM. 
.
# AF: We continued patient's home digoxin, furosemide and 
coumadin (INR 2.1-2.4).
.
# Dispo: discharge to home, f/u with PCP and cardiology
 
___ on Admission:
Carvedilol 12.5mg PO BID
Warfarin ___ 2.5mg PO BID, ___ 2.5mg qdaily
Digoxin .25mg daily
Furosemide 40mg daily
KCl 20meq daily
Preserve vision vitamins for eyes
 
Discharge Medications:
1. warfarin 2.5 mg Tablet Sig: One (1) Tablet PO BID ON ___ 
().  
2. warfarin 2.5 mg Tablet Sig: One (1) Tablet PO DAILY ___ 
().  
3. digoxin 250 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Coreg 6.25 mg Tablet Sig: One (1) Tablet PO qAM: please take 
at 11 am.
Disp:*30 Tablet(s)* Refills:*2*
6. Coreg 12.5 mg Tablet Sig: One (1) Tablet PO qPM.
Disp:*30 Tablet(s)* Refills:*2*
7. potassium chloride 20 mEq Packet Sig: One (1) packet PO once 
a day.  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
1. pre-syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with lightheadedness and 
dizziness (pre-syncope) in the setting of dose adjustment of 
your carvedilol. We spoke with your primary care doctor and your 
cardiologists, and have changed your carvedilol dose to 6.25 mg 
in the morning (11 am) and 12.5 mg in the evening (10 pm) at 
discharge. We interrogated your pacemaker, and you were not 
found to have any dangerous fast or slow arrhythmias which could 
cause your symptoms. We also performed an echocardiogram which 
showed ejection fraction 45%.
.
MEDICATION CHANGES
- CHANGE carvedilol (coreg) to 6.25 mg qAM (take at 11 am) and 
12.5 mg qPM (take at 10 pm)
.
Please continue to take your other medicatins as prescribed. 
Please seek medical attention for any concerning symptoms, such 
as lightheadedness, dizziness, passing out (syncope), or 
palpitations.
 
Followup Instructions:
___